US08648086B2
A round-bottom flask was charged with 4-[(4-nitro-1H-indol-1-yl)methyl]-1H-pyrrolo[2,3-b]pyridine (526 mg, 1.8 mmol), Boc2O (786 mg, 3.6 mmol), 4-dimethylaminopyridine (cat.), and DCM (30 mL). The mixture was stirred overnight, concentrated and purified by flash column chromatography to afford product 4-[(4-nitro-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine (516 mg, 73%).

reactant | 4-[(4-nitro-1H-indol-1-yl)methyl]-1H-pyrrolo[2,3-b]pyridine | 1.8 mmol, 526 mg | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CC1=C2C(=NC=C1)NC=C2 | C16H12N4O2
reactant | Boc2O | 3.6 mmol, 786 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4-nitro-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine | 516 mg, 73% | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CC1=C2C(=NC=C1)N(C=C2)C(=O)OC(C)(C)C | C21H20N4O4
